US07585878B2
In 70 ml of toluene was dissolved 3.2 g of ethyl 4-formyl-3-nitrobenzoate and then 5.75 g of methyl triphenylphosphoranylideneacetate, followed by 6 hours of stirring under reflux. After cooling, the reaction solution was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate) to obtain 3.63 g of ethyl 4-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-3-nitrobenzoate as a white solid.

reactant | ethyl 4-formyl-3-nitrobenzoate | 3.2 g | C(=O)C1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C10H9NO5
reactant | methyl triphenylphosphoranylideneacetate | 5.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-3-nitrobenzoate | 3.63 g | COC(/C=C/C1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-])=O | C13H13NO6
